US06080868
Preparation of 2-(methylthio)-6-nitrobenzothiazole 7
See FIG. 4A. Fuming nitric acid (1.93 g) was added dropwise to a solution of 2-(methylthio)benzothiazole (5 g) in concentrated sulfuric acid (16.8 g) cooled in an ice bath. After stirring at 5° C. for 3 h the solution was poured onto ice and filtered to provide a yellow solid (5.7 g, 25 mmol, 91%).

reactant | nitric acid | 1.93 g | [N+](=O)(O)[O-] | HNO3
reactant | 2-(methylthio)benzothiazole | 5 g | CSC=1SC2=C(N1)C=CC=C2 | C8H7NS2
solvent | sulfuric acid | 16.8 g | S(O)(O)(=O)=O | H2O4S
product | 2-(methylthio)-6-nitrobenzothiazole | 25 mmol, 5.7 g, 91% | CSC=1SC2=C(N1)C=CC(=C2)[N+](=O)[O-] | C8H6N2O2S2
